US07244725B2
B. 3,5-di-tert-butylbenzylamine
To 3,5-di-tert-butylbenzonitrile (863 mg, 4.02 mmol) in dry THF (10 mL) at 0° C. was added lithium aluminum hydride (304 mg, 8.0 mmol) in one portion. The reaction mixture was allowed to warm to rt for 2 h, whereupon the reaction was quenched (0.2 mL water, followed by 0.2 mL 15% potassium hydroxide solution and 0.6 mL water). The reaction mixture was stirred at rt for 1 h, then filtered through diatomaceous earth (CH2Cl2 elution). The filtrate was then concentrated and used in the next reaction without further purification: 1H NMR (300 MHz, CDCl3) δ 7.33 (s, 1H), 7.16 (d, J=1.8 Hz, 2H), 3.86 (s, 2H), 1.33 (s, 18H); mass spec (CI): 203.2 (M−NH2).

reactant | 3,5-di-tert-butylbenzonitrile | 4.02 mmol, 863 mg | C(C)(C)(C)C=1C=C(C#N)C=C(C1)C(C)(C)C | C15H21N
reactant | lithium aluminum hydride | 8.0 mmol, 304 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3,5-di-tert-butylbenzylamine | C(C)(C)(C)C=1C=C(CN)C=C(C1)C(C)(C)C | C15H25N
